US07906528B2
A mixture of 5-(2,6-diethyl-phenyl)-1H-pyrrolo[2,3-c]pyridine (200 mg, 0.90 mmol), 4-oxo-piperidine-1-carboxylic acid tert-butyl ester (358 mg, 1.8 mmol), Cs2CO3 (586 mg, 1.8 mmol), and MeOH (6 mL) is refluxed for 18 h. MeOH is removed under reduced pressure. The residue is treated with acetic acid (0.5 mL) and water (3 mL) and is extracted with EtOAc. The combined organic extracts are washed with brine, dried over Na2SO4, and concentrated under reduced pressure. Chromatography of the residue affords 4-[5-(2,6-Diethyl-phenyl)-1H-pyrrolo[2,3-c]pyridin-3-yl]-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester as colorless oil.

reactant | 5-(2,6-diethyl-phenyl)-1H-pyrrolo[2,3-c]pyridine | 0.90 mmol, 200 mg | C(C)C1=C(C(=CC=C1)CC)C=1C=C2C(=CN1)NC=C2 | C17H18N2
reactant | 4-oxo-piperidine-1-carboxylic acid tert-butyl ester | 1.8 mmol, 358 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)=O | C10H17NO3
reactant | Cs2CO3 | 1.8 mmol, 586 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | MeOH | 6 mL | CO | CH4O
product | 4-[5-(2,6-Diethyl-phenyl)-1H-pyrrolo[2,3-c]pyridin-3-yl]-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(=CC1)C1=CNC2=CN=C(C=C21)C2=C(C=CC=C2CC)CC | C27H33N3O2
